US07335660B2
Prepared from 2-(5-chloro-1,3-dihydro-2-benzofuran-1-yl)ethanol, as described for the preparation of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(dimethyl)silyl ether, to yield tert-butyl-[2-(5-chloro-1,3-dihydro-2-benzofuran-1-yl)ethoxy]-dimethylsilane.

reactant | 2-(5-chloro-1,3-dihydro-2-benzofuran-1-yl)ethanol | ClC1=CC2=C(C(OC2)CCO)C=C1 | C10H11ClO2
reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(dimethyl)silyl ether | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C17H27BrO2Si
product | tert-butyl-[2-(5-chloro-1,3-dihydro-2-benzofuran-1-yl)ethoxy]-dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC1OCC2=C1C=CC(=C2)Cl | C16H25ClO2Si
